US08242104B2
A mixture of trifluoro-methanesulfonic acid 3,6-dihydro-2H-pyran-4-yl ester (125 mg, 0.54 mmol), 8-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (200 mg, 0.491 mmol), PdCl2dppf.DCM (41 mg, 0.05 mmol, 10 mol %), cesium carbonate (400 mg, 1.23 mmol), DME (2 mL) and water (0.2 mL) was heated at 80° C. for 90 min. The cooled reaction mixture was diluted with DCM, filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 100% ethyl acetate in cyclohexane) to give 8-(3,6-Dihydro-2H-pyran-4-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (73 mg, 39%). LCMS RT=4.36, [M+H]+=378.

reactant | trifluoro-methanesulfonic acid 3,6-dihydro-2H-pyran-4-yl ester | 0.54 mmol, 125 mg | O1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C6H7F3O4S
reactant | 8-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 0.491 mmol, 200 mg | CC1(COB(OC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C | C21H26BN5O3
reactant | cesium carbonate | 1.23 mmol, 400 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DME | 2 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.05 mmol, 41 mg | C(Cl)Cl | CH2Cl2
solvent | water | 0.2 mL | O | H2O
product | 8-(3,6-Dihydro-2H-pyran-4-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 73 mg, 39% | O1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C21H23N5O2
